Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My anxiety getting worse"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Briefly, Mr. ___ is a ___ year-old male college student at 
___, who presents on a ___ from his school 
counselor's office where he presented with worsening anxiety and 
depressed mood and endorsed suicidal ideation with fear of being 
in his dorm room alone. 
.
During the current interview, the patient reported having 
suffered from anxiety for ___ years, experiencing both a general 
sense of anxiety as well as discrete "attacks" in which he feels 
a racing heart, rapid breathing, weakness, and difficulty 
concentrating. He reports feeling particularly anxious when he 
is in a crowd, in a new place, or taking an exam. The attacks 
are typically triggered by situations related to school, and do 
not come unexpectedly. When we asked about stressors in his 
life, he stated that "it's pretty much school". During the 
attacks he tries to "contain myself". He had not sought care for 
anxiety in the past, but he felt like it was getting much worse 
("happens everyday") and affecting his performance at school, 
which is stressful since "my financial support is related to 
it". He therefore went to the ___'s ___ for help 
on ___. The psychologist showed him breathing 
exercises and progressive muscle relaxation, and the patient 
felt some relief. On ___, the patient experienced another 
attack and returned to the ___ center, and completed 
breathing exercises but without effect. He was unable to focus 
on his work. The next morning (___) the patient experienced 
another attack and when he reported for his medical evaluation 
for ___, he was "too anxious to speak" and was directed to the 
___. During this meeting with his counselor, he 
endorsed depressive symptoms and suicidal ideation, and reported 
that he "did not know if I would be safe" in his dorm room. He 
was then sent to ___ under a ___.
.
The patient reports hearing voices when he is anxious. He does 
not recognize the voices, and can't clearly make out what they 
are saying, and they do not issue commands. Often he simply 
believes that "my name has been called", but I "can tell it's 
not real" and "maybe just in my head".
.
The patient also reports having an increasingly depressed mood. 
He endorses difficulty sleeping, feelings of guilt and 
hopelessness, reduced appetite, and a sense of hopelessness.  He 
reports that he is still interested in activities that he enjoys 
(e.g. trying to start playing rugby again; recently went 
snowboarding). He wants to start exercising more "since that 
always helped with my mood". He endorses suicidal 
ideation("feeling what's the point") and has had thoughts of 
plans ("cutting myself" and "hanging myself") but says he has 
"never
taken steps". He denies having thoughts of harming others.
 
Past Medical History:
-appendectomy 
-Latent TB: received full treatment which ended in ___ of
last year; denies any symptoms including cough, SOB, 
fever/chills
.
Past psychiatric history is absent for any previous psychiatric 
hospitalizations, referrals to mental health providers, or 
medication trials. Patient denies previous suicide attempts, but 
endorsed suicidal ideation; reported having previous thoughts of 
cutting himself with a knife ___ year ago) but did not proceed. 
Also thought about driving off a cliff with his motorcycle but 
not recently (back in ___. Thought of about 
hanging himself. Denies access to firearms or weapons.
 
Social History:
Born and raised in ___. Describes having a 
difficult childhood, particularly being emotionally abused by 
his controlling mother. Says it is mostly raising voices but 
sometimes amounted to hitting when he and his siblings were 
younger. He says his parents have never been very supportive of 
him and what he wants to do, and he always has to do what his 
mom wants him to do. Says that when his mom yells at him he gets 
very anxious and this can precipitate a panic attack. He does 
not like confronting his parents and telling  them how he feels. 
He has never spoken to them about his anxiety.
.
His father is a ___ in ___ and mother is a 
___. They both still live back home. They are still 
together but have had a conflictual relationship. Patient 
remembers them always fighting and sometimes arguments getting 
physical (mom was always more physical than dad). It was the 
worst when he was about ___ years old. Feels frustrated by his 
parents relationship and that is an extra burden on him. 
Sometimes feels bad and guilty that he doesn't seem to care abut 
them. He is worried about telling his parents about his anxiety 
and that they will not accept that he has a "problem like this." 

.
He decided to go to ___ in ___ to get away from his 
parents, and is currently a sophomore at ___, 
studying ___. He speaks to his parents 
infrequently and it is not about anything emotional. He has an 
older brother who lives in ___ and a younger sister who 
lives back at home and he is not in substantive contact with 
them. 
.
He has a few friends that he can confide in, one of whom still 
lives in ___. He otherwise likes to stay to himself in 
school. He buys groceries and prepares food himself because he 
does not like to go to the cafeteria with so many people. He 
sometimes talks to people next to him in class but otherwise 
does not engage much. He notes that he is really struggling with 
school and is worried that he will not be able to finish. 
.
Currently he is a student at ___. He reports 
having no family here and says he is not really close with his 
family at home. No one knows what he has been going through. He 
does have family friends that live close to here.
.
He had some tutoring/academic assistance in high school.
 
Family History:
Absent for any known psychiatric hospitalizations or completed 
suicides.
 
Physical Exam:
ADMISSION EXAM
.
VS:  T-98.1 BP-141/80 HR-69 RR-18 O2Sat-98   
.
General: young male in NAD. Well-nourished, well-developed. 
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No obvious rashes, abrasions, scars, or lesions. 
.
Neurological:
Cranial Nerves:
 I: Not tested.
 II: pupils equal and round
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor.  Strength: full power ___ throughout. Coordination: 
Normal on finger to nose test. DTRs: 2+ and symmetrical patellar 
reflexes. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
.
Cognition
Wakefulness/alertness: Awake and alert
Attention: serial 7s to 51 with no errors
Orientation: Oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): Not tested
Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
Fund of knowledge: Consistent with education; intact ___ 
plays
Calculations: $2.25 = "9" quarters
Abstraction: apple+orange="fruit" watch+ruler="they measure" 
bike+train="transportation"
Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
Appearance: Young man appearing his stated age, fairly groomed 
but somewhat disheveled and unkempt (unshaved), wearing hospital 
gown, in no apparent distress
Behavior: Sitting in chair comfortably, appropriate eye contact, 
no psychomotor agitation or retardation
Attitude: Cooperative, engaged, friendly
Mood: "Okay"
Affect: Overall somewhat blunted, slightly odd affect, smiling 
oddly at times, but does show some reactivity during interview 
Speech: Normal rate, volume, and tone
Thought process: Linear, coherent, without loosening of 
associations, but thought blocked at times
Thought Content:
  Safety: Denies SI/HI at this time
  Delusions: paranoia as above in HPI, denies paranoia at 
present
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Denies AVH currently but AH recently as per 
HPI, not appearing to be attending to internal stimuli
Insight: Limited
Judgment: fair
.
DISCHARGE EXAM:
VS: T:98.5 BP:105/66 HR:65 RR:16 O2:98 
A: Well-groomed, good hygiene, NAD
B: Good eye contact, calm and cooperative, no psychomotor 
agitation/retardation
M/A: "okay", euthymic, mood congruent
S: Normal rate, volume, prosody
TP: Linear, goal and future oriented
TC: Denies current suicidal ideation or thoughts/urges to engage 
in self-harm or to harm others; no evidence of internal 
preoccupation or hallucinatory stimuli present; no delusional 
thought content expressed. 
C: Alert and oriented x 3, fluent ___ attentive to 
interview
I/J: Fair/Fair
Neurological:
Ambulates without ataxia, moves all extremities freely against 
gravity; no abnormal movements noted. No tremors or gait 
disturbances
 
Pertinent Results:
CBC with diff (___)
WBC-8.5 RBC-5.40 Hgb-15.5 Hct-45.4 MCV-84 MCH-28.7 MCHC-34.1 
RDW-12.8 RDWSD-38.8 Plt ___
Neuts-75.5* ___ Monos-3.4* Eos-0.4* Baso-0.4 Im ___ 
AbsNeut-6.41* AbsLymp-1.69 AbsMono-0.29 AbsEos-0.03* 
AbsBaso-0.03
.
Chem 10 (___)
Glucose-85 UreaN-10 Creat-0.9 Na-138 K-3.9 Cl-100 HCO3-24 
AnGap-14
Calcium-9.1 Phos-4.3 Mg-2.1
.
LFTs (___)
ALT-16 AST-14 AlkPhos-56 TotBili-0.5
.
Thyroid (___)
TSH-3.0
.
Urinalysis (___)
Blood-NEG Nitrite-NEG Protein-30* Glucose-NEG Ketone-40* 
Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
RBC-3* WBC-2 Bacteri-FEW* Yeast-NONE Epi-1
.
Tox screens (___)
BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG Tricycl-NEG
URINE bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG 
amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
On admission, patient describes a ___ year history of anxiety 
and panic attacks associated with numerous stimuli, many related 
to being in school (being in crowds, taking exams, meeting new 
people). He also endorses several features of depression, 
including depressed mood, sleep disturbance, feelings of guilt 
and hopelessness, inability to focus, loss of appetite, and 
suicidal ideation with plans but no stated intent. His anxiety 
is also accompanied by auditory hallucination (vague voices that 
call his name). Of note, admitting team in ED noted potential 
paranoia and delusions in history as well. On exam, his affect 
was moderately blunted, he maintained good eye contact, he seems 
internally preoccupied at level consistent with anxiety but did 
not seem to be responding to internal stimuli.
.
Differential would include a primary mood disorder such as MDD, 
potentially with psychotic features, as well as an anxiety 
disorder such as GAD (> 6 months, pervasive) and panic disorder. 
Presentation less likely for primary psychotic disorder with 
mood component, though would continue to monitor.
.
The following psychiatric medications were offered on admission: 
citalopram 10mg daily (increased to 20mg on ___ and lorazepam 
0.5mg PO BID. Patient tolerated citalopram well and denied side 
effects such as headache, N/V, and diarrhea.
.
On ___, patient reported drowsiness and difficulty 
concentrating on lorazepam. Replaced this medication with 
hydroxyzine 25mg PO BID (increased to 50mg PO BID on ___, 
which patient tolerated well. Lorazepam remained available to 
the patient on an as needed basis.
.
Patient reported improvement in overall level of anxiety on the 
above medication regimen as well as improvement in sleep and 
mood. On exam, he exhibited a brightened and more spontaneous 
affect. Although patient did not attend groups on the unit, he 
interacted appropriately with other patients and enjoyed other 
activities such as playing the piano. On the day of discharge, 
he denied suicidal ideation, homicidal ideation, and 
demonstrated future-oriented thinking.
.
3. MEDICAL
#) Patient was medically evaluated in the ___ ED and no acute 
medical conditions prevented admission to the inpatient 
psychiatric unit. Additionally, patient has no chronic medical 
conditions which required attention during his hospital stay.
.
4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient intermittently attended these groups that focused on 
teaching patients various coping skills. Patient interacted 
appropriately with other patients and staff while in the milieu.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient requested that the treatment team *not* contact his 
family regarding this hospitalization. He did give team 
permission to contact his friend, ___ ___, 
whom was notified of the patient's hospitalization and who 
provided collateral information.  
.
INFORMED CONSENT:
*Medication: Vistaril (hydroxyzine)
---Benefits: Treatment of anxiety
---Adverse effects: Dry mouth, sedation, tremor, potential for 
respiratory depression
.
*Medication: Ativan (lorazepam)
---Benefits: Treatment of anxiety, to be used periodically
---Adverse effects: Sedation, depression, dizziness, slurred 
speech, falling down, forgetfulness, confusion, paradoxical 
hyperexcitability/nervousness, respiratory depression 
(especially when taken with CNS depressants in overdose)
.
*Medication: Celexa (citalopram)
---Benefits: Treatment of depression
---Adverse effects: Decreased appetite, nausea, diarrhea, 
constipation, dry mouth, insomnia, tremors, headache, dizziness, 
sexual dysfunction (decreased sexual desire, anorgasmia), 
sweating, hyponatremia/SIADH (rare, in older patients), 
bruising, seizures (rare), weight gain (unusual), sedation 
(unusual), activation of suicidal ideation (rare)
.
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting the above 
medications and risks and benefits of possible alternatives, 
including not taking the medications, with this patient. We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team. The patient appeared 
able to understand and consented to begin the above medications.
.
RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself. His static risk factors noted 
at that time include male sex, age, and single status. The 
modifiable risk factors identified were as such: suicidal 
ideation, impulsiveness, no established outpatient providers, 
social withdrawal, and thought constriction. These modifiable 
risk factors were addressed with acute stabilization in a safe 
environment on a locked inpatient unit, psychopharmacologic 
adjustments, psychotherapeutic interventions (OT groups, SW 
groups, individual therapy meetings with psychiatrists), and 
presence on a social milieu environment.  Mr. ___ is being 
discharged with many protective factors, including help-seeking 
behavior, medication compliance, future-oriented thinking, and 
lack of suicidal ideation. Patient demonstrated preserved 
capacity to engage in a meaningful conversation about safety 
planning about what he would do in the event that suicidal 
ideation returns (e.g. call on-call counselor at ___, call ___, 
present to the ED). Overall, based on the totality of our 
assessment at this time, Mr. ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet by mouth every day. Disp #*14 
Tablet Refills:*0 
2.  HydrOXYzine 50 mg PO BID:PRN anxiety 
RX *hydroxyzine HCl 50 mg 1 tablet by mouth twice daily Disp 
#*28 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO BID:PRN anxiety not relieved by 
hydroxyzine 
RX *lorazepam 0.5 mg 1 tablet by mouth twice daily Disp #*28 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Unspecified depressive disorder with psychotic features
-Unspecified anxiety disorder 
-Specific phobia

 
Discharge Condition:
VS: T:98.5  BP:105/66  HR:65  RR:16  O2:98  
A: Well-groomed, good hygiene, NAD
B: Good eye contact, calm and cooperative, no psychomotor 
agitation/retardation
M/A: 'okay', euthymic, mood congruent
S: Normal rate, volume, prosody
TP: Linear, goal and future oriented
TC: Denies current suicidal ideation or thoughts/urges to engage 
in self-harm or to harm others; no evidence of internal 
preoccupation or hallucinatory stimuli present; no delusional 
thought content expressed. 
C: Alert and oriented x 3, fluent ___ attentive to 
interview
I/J: Fair/Fair
Neurological:
Ambulates without ataxia, moves all extremities freely against
gravity; no abnormal movements noted.  No tremors or gait
disturbances

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___